US07897600B2
4-((6-Chloro-3-(4-chloro-2-fluorobenzyl)-2-methylimidazo[1,2-b]pyridazin-8-yl)methyl)morpholine
Combine (4-chloro-2-fluorophenyl)(6-chloro-2-methyl-8-(morpholinomethyl)imidazo[1,2-b]pyridazin-3-yl)methanol (0.4 g, 0.94 mmol), 1,2-dichloroethane (25 mL), triethylsilane (0.45 mL, 3 equiv.), and trifluoroacetic acid (0.57 mL, 8 equiv.) in a round bottom flask and place under nitrogen. Heat at 70° C. overnight. Concentrate reaction in vacuo. Load onto a Varian MegaElut® 10 gram SCX ion exchange cartridge (prewashed with methanol). Elute with methanol to remove non-basic impurities. Elute with 2 M ammonia in methanol. Concentrate in vacuo to give the title compound (0.36 g, 94%). LCMS (4 min)=409.0, 411.0, M+1.

reactant | (4-chloro-2-fluorophenyl)(6-chloro-2-methyl-8-(morpholinomethyl)imidazo[1,2-b]pyridazin-3-yl)methanol | 0.94 mmol, 0.4 g | ClC1=CC(=C(C=C1)C(O)C1=C(N=C2N1N=C(C=C2CN2CCOCC2)Cl)C)F | C19H19Cl2FN4O2
reactant | 1,2-dichloroethane | 25 mL | ClCCCl | C2H4Cl2
reactant | triethylsilane | 0.45 mL, 3 equiv. | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 0.57 mL, 8 equiv. | FC(C(=O)O)(F)F | C2HF3O2
solvent | methanol | CO | CH4O
product | 4-((6-Chloro-3-(4-chloro-2-fluorobenzyl)-2-methylimidazo[1,2-b]pyridazin-8-yl)methyl)morpholine | 0.36 g, 94% | ClC=1C=C(C=2N(N1)C(=C(N2)C)CC2=C(C=C(C=C2)Cl)F)CN2CCOCC2 | C19H19Cl2FN4O
